US07915448B2
59A) 2-[4-tert-Butylphenyl]prop-2-en-1-yl acetate
To a stirred suspension of methyltriphenylphosphonium bromide (8.48 g, 23.7 mmol) in THF (75 ml) was added potassium tert-butoxide (2.66 g, 23.7 mmol) at room temperature. The mixture was stirred at 40° C. for 1 hour. After cooling to room temperature, a solution of 2-[4-tert-butylphenyl]-2-oxoethyl acetate (U.S. Pat. No. 3,526,634, 2.78 g, 11.9 mmol) in THF (25 ml) was added to the mixture. The mixture was heated at reflux for 3 hours. The mixture was concentrated, diluted with EtOAc and washed with water and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting with hexane/EtOAc (9:1), to afford the title compound (2.13 g, 77%) as a yellow oil.

reactant | potassium tert-butoxide | 23.7 mmol, 2.66 g | CC(C)([O-])C.[K+]
reactant | 2-[4-tert-butylphenyl]-2-oxoethyl acetate | C(C)(=O)OCC(=O)C1=CC=C(C=C1)C(C)(C)C | C14H18O3
catalyst | methyltriphenylphosphonium bromide | 23.7 mmol, 8.48 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-[4-tert-Butylphenyl]prop-2-en-1-yl acetate | 2.13 g, 77% | C(C)(=O)OCC(=C)C1=CC=C(C=C1)C(C)(C)C | C15H20O2
